US09169259B2
A mixture of methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (0.10 g, 0.3 mmol), 6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-amine (0.083 g, 0.4 mmol), Pd2(dba)3 (0.019 g, 0.033 mmol), BINAP (0.083 g, 0.134 mmol) and Cs2CO3 (0.326 g, 1.0 mmol) in dioxane (20 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:15) to afford methyl 3-(8-(6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (0.050 g) as a yellow solid. LC-MS: [M+1]+=459, tR=1.985 min. This contained some unidentified impurities and was used directly without further purification.

reactant | methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.3 mmol, 0.10 g | BrC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C14H10BrN3O2
reactant | 6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-amine | 0.4 mmol, 0.083 g | COCC1N(CCC1)C1=CC=CC(=N1)N | C11H17N3O
reactant | BINAP | 0.134 mmol, 0.083 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.0 mmol, 0.326 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.033 mmol, 0.019 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 3-(8-(6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.050 g | COCC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C25H26N6O3
